US05488131
[1S-[1R*(R*), 2R*]]-α-ethyl-N-(2-hydroxy-1-methyl-2-phenylethyl)-N-methyl benzeneacetamide
A dry 500 mL round-bottomed flask was charged with lithium chloride (4.24 g, 100 mmol, 10.0 equiv), diisopropylamine (3.1 mL, 22.1 mmol, 2.21 equiv), and tetrahydrofuran (35 mL). The suspension was cooled to -78° C., and n-butyllithium (2.04M in hexanes, 10.20 mL, 20.8 mmol, 2.08 equiv) was added via cannula, and the mixture was briefly warmed to 0° C. and then recooled to -78° C. [1S-[1R*, 2R*]]-N-(2-hydroxy-1-methyl-2-phenylethyl)-N-methyl benzeneacetamide (2.83 g, 10.0 mmol, 1.0 equiv) was added as a solution in tetrahydrofuran (50 mL), and the mixture was stirred at -78° C. for 1 hour, 0° C. for 10 minutes, and 23° C. for 4 minutes, then cooled to 0° C. Ethyl iodide (3.2 mL, 40 mmol, 4.0 equiv) was added, and the reaction was quenched after 40 minutes with saturated ammonium chloride. The amide was extracted from saturated ammonium chloride (800 mL) with ethyl acetate (3×100 mL), and the combined organic extracts were dried over sodium sulfate. After removal of the solvent under reduced pressure, flash column chromatography (50% ethyl acetate/hexanes) of the oily residue afforded a colorless oil which slowly solidified (2.85 g, 92 % yield). GC analysis of the TMS ether indicated a diastereomeric purity of the amide of greater than 98% de: mp 65°-66° C.; 1H NMR (300 MHz, C6D6) δ6.9-7.4 (m, 5H), 4.95 (br, 1H), 4.51 (t, 1H, J=6.9 Hz), 4.03 (m, 1H), 3.82 (m, 1H), 3.11 (dd, 1H, J=7.5 Hz, 7.0 Hz), 2.78 (s, 3H), 2.48 (m, 2H), 2.25 (m, 1H), 2.12 (s, 3H), 1.90 (m, 1H), 1.73 (m, 2H), 0.98 (d, 3H, J=6.8 Hz), 0.97 (m, 3H), 0.82 (t, 3H, J =7.3 Hz), 0.30 (d, 3H, J=6.5 Hz); 13C NMR (75.5 MHz, CDCl3) δ 175.4, 174.2, 142.3, 141.3, 140.5, 139.6, 128.8, 128.7, 128.7, 128.3, 128.2, 127.8, 127.7, 127.4, 126.9, 126.7, 126.6, 126.3; FTIR (neat film) cm-1: 3384 (br, m), 3027 (m), 2966 (m), 2922 (m), 2873 (m), 1620 (s), 1491 (m), 1453 (m), 1406 (m), 761 (m), 701 (m); HRMS (FAB) Calcd for C20H26NO2 (MH+): 312. 1965. Found: 312. 1962.

reactant | lithium chloride | 100 mmol, 4.24 g, 10.0 equiv | [Cl-].[Li+]
reactant | diisopropylamine | 22.1 mmol, 3.1 mL, 2.21 equiv | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 20.8 mmol, 2.04M, 10.20 mL, 2.08 equiv | C(CCC)[Li]
reactant | N-(2-hydroxy-1-methyl-2-phenylethyl)-N-methyl benzeneacetamide | 10.0 mmol, 2.83 g, 1.0 equiv | OC(C(C)N(C(CC1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C18H21NO2
reactant | Ethyl iodide | 40 mmol, 3.2 mL, 4.0 equiv | C(C)I | C2H5I
reactant | TMS ether | [Si](C)(C)(C)O[Si](C)(C)C | C6H18OSi2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | α-ethyl-N-(2-hydroxy-1-methyl-2-phenylethyl)-N-methyl benzeneacetamide | 92 % yield | C(C)C(C(=O)N(C)C(C(C1=CC=CC=C1)O)C)C1=CC=CC=C1 | C20H25NO2
